US05552409
A mixture of 3-cyano-5-(4-chlorophenyl)-2-pyridinone (4.6 g) and 85% H3PO4 (60 ml) was heated at reflux for 16 hours. The resulting mixture was cooled to room temperature, poured into ice/water and filtered yielding 3.1 g of 5-(4-chlorophenyl)-2-pyridinone as a yellow solid.

reactant | 3-cyano-5-(4-chlorophenyl)-2-pyridinone | 4.6 g | C(#N)C=1C(NC=C(C1)C1=CC=C(C=C1)Cl)=O | C12H7ClN2O
solvent | H3PO4 | 60 ml | OP(=O)(O)O | H3O4P
product | 5-(4-chlorophenyl)-2-pyridinone | 3.1 g | ClC1=CC=C(C=C1)C=1C=CC(NC1)=O | C11H8ClNO
